US06949579B2
N-[6-chloro-1H-indazol-3-yl]-2-pyridinecarboxamide
4.2 cm3 of diisopropylethylamine are added to 1 g of 6-chloro-1H-indazole-3-amine in 15 cm3 of pyridine. The reaction medium is cooled to about 8° C. to add 1.08 g of picolinoyl chloride hydrochloride, and the temperature is allowed to return to room temperature over 18 hours. The reaction medium is concentrated to dryness under reduced pressure (2 kPa; 40° C.) and the residue is then taken up in 25 cm3 of ethyl acetate and 25 cm3 of distilled water. The organic phase is washed with 25 cm3 of water and then with 25 cm3 of saturated aqueous sodium chloride solution. After drying over magnesium sulphate, filtration and concentration under reduced pressure (2 kPa; 40° C.), the residue is purified by chromatography under an argon pressure of 50 kPa, on a column of silica gel (particle size 40-60 μm; diameter 3 cm), eluting with a dichloromethane/methanol mixture (99/1 by volume). The fractions containing the expected product are combined and evaporated under reduced pressure (2 kPa; 50° C.) and the residue is taken up in 2×15 cm of diisopropyl ether. After filtration on a sinter funnel and drying under reduced pressure (90 Pa; 50° C.), 572 mg of N-[6-chloro-1H-indazol-3-yl]-2-pyridinecarboxamide are obtained in the form of a white solid melting at 177° C.

reactant | diisopropylethylamine | 4.2 cm3 | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 6-chloro-1H-indazole-3-amine | 1 g | ClC1=CC=C2C(=NNC2=C1)N | C7H6ClN3
reactant | picolinoyl chloride hydrochloride | 1.08 g | Cl.N1=C(C=CC=C1)C(=O)Cl
solvent | pyridine | 15 cm3 | N1=CC=CC=C1 | C5H5N
product | N-[6-chloro-1H-indazol-3-yl]-2-pyridinecarboxamide | ClC1=CC=C2C(=NNC2=C1)NC(=O)C1=NC=CC=C1 | C13H9ClN4O
